US05464873
C. Trans-N,N,N',N'-tetraethyl-1,2-dimethylcyclohex-1-ene-4,5-dicarboxamide
To trans-1,2-dimethylcyclohexene-4,5-dicarboxylic acid (1.98 g 0.01 mol) heated to 80° C., was added thionyl chloride (2.38 g, 0.02 mol) over 1 hr. The mixture was kept at this temperature for a further two hours, then cooled and added dropwise to a diethyl ether solution (45 ml) of excess diethylamine (14.6 g, 0.2 mol) cooled to ice bath temperature. The solvent was removed to give the crude product as an oil which was not purified for use in the next stage.

reactant | trans-1,2-dimethylcyclohexene-4,5-dicarboxylic acid | 0.01 mol, 1.98 g | CC1=C(C[C@H]([C@@H](C1)C(=O)O)C(=O)O)C | C10H14O4
reactant | thionyl chloride | 0.02 mol, 2.38 g | S(=O)(Cl)Cl | Cl2OS
reactant | diethylamine | 0.2 mol, 14.6 g | C(C)NCC | C4H11N
solvent | diethyl ether | 45 ml | C(C)OCC | C4H10O
product | Trans-N,N,N',N'-tetraethyl-1,2-dimethylcyclohex-1-ene-4,5-dicarboxamide | C(C)N(C(=O)[C@@H]1CC(=C(C[C@H]1C(=O)N(CC)CC)C)C)CC | C18H32N2O2
